US08293735B2
2-(6-Fluoro-1H-indol-4-yl)-6-(hexahydro-pyrrolo[3,4-c]pyrrol-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
Prepared according to the method used in the preparation of 2-(6-fluoro-1H-indol-4-yl)-6-[(S)-1-(hexahydro-pyrrolo[1,2-d]pyrazin-2-yl)methyl]-4-morpholin-4-yl-thieno-[3,2-d]pyrimidine using hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester in place of (S)-octahydro-pyrrolo[1,2-a]pyrazine, followed by BOC-deprotection using TFA:DCM (1:1). The title compound was obtained as a white solid (34 mg, 47%).

reactant | 2-(6-fluoro-1H-indol-4-yl)-6-[(S)-1-(hexahydro-pyrrolo[1,2-d]pyrazin-2-yl)methyl]-4-morpholin-4-yl-thieno-[3,2-d]pyrimidine | FC1=CC(=C2C=CNC2=C1)C=1N=C(C2=C(N1)C=C(S2)CN2CCN1[C@H](C2)CCC1)N1CCOCC1 | C26H29FN6OS
reactant | hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CNCC2C1 | C11H20N2O2
reactant | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 2-(6-Fluoro-1H-indol-4-yl)-6-(hexahydro-pyrrolo[3,4-c]pyrrol-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | FC1=CC(=C2C=CNC2=C1)C=1N=C(C2=C(N1)C=C(S2)CN2CC1CNCC1C2)N2CCOCC2 | C25H27FN6OS
